US06740670B2
2,4-Difluorobenzyl 2-(2,4-difluorobenzyloxy)-5-formylbenzoate
2,4-Difluorobenzyl bromide (0.77 mL, 6 mmol, 1 eq) was added dropwise to a stirred solution of 5-formylsalicylic acid (1 g, 6 mmol, 1 eq) and cesium carbonate (5.87 g, 18 mmol, 3 eq) in N,N-dimethylformamide (30 mL). The reaction mixture was diluted with ethyl acetate (50 mL) and the organic solution washed with water (50 mL), saturated aqueous sodium bicarbonate (2×50 mL) and brine (50 mL), then dried over sodium sulfate and evaporated in vacuo to give the product as a white powder (1.2 g, 50%). 1H NMR (CDCl3) δ9.91 (s, 1H, O═C—H), 5.37 (s, 2H, CH2Ar), 5.25 (s, 2H, CH2Ar).

reactant | 2,4-Difluorobenzyl bromide | 6 mmol, 0.77 mL, 1 eq | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
reactant | 5-formylsalicylic acid | 6 mmol, 1 g, 1 eq | C(=O)C1=CC=C(C(C(=O)O)=C1)O | C8H6O4
reactant | cesium carbonate | 18 mmol, 5.87 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2,4-Difluorobenzyl 2-(2,4-difluorobenzyloxy)-5-formylbenzoate | 1.2 g, 50% | FC1=C(COC2=C(C(=O)OCC3=C(C=C(C=C3)F)F)C=C(C=C2)C=O)C=CC(=C1)F | C22H14F4O4
